Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
struck by car
 
Major Surgical or Invasive Procedure:
___ ex lap, splenectomy, left nephrectomy
___ bed side ex lap, packing, abdomen left open

 
History of Present Illness:
___ yo female walking her dog when she was struck by a vehicle. 
She was unresponsive in the field, but had purposful bilateral 
movement. At the OSH she blew her right pupil, no left sided 
movement, although she was purposful on the right. She was 
intubated. A fast showed superpubic blood and RUQ blood. BP was 
60 systolic. She was given 3 u pRBC in route. 
 
Past Medical History:
none
 
Social History:
___
Family History:
unknown
 
Physical Exam:
pulse 71  bp 51/- initially  rr 17 
intubated
r pupil 6mm non reactive, l pupil 2mm non reactive, some 
purposeful movement, echymosis b/l eyes, depressed skull 
fracture right posterior scalp with puncture and soft tissue 
protruding, laceration over left eyebrow
RRR
equal breath sounds b/l, l clavicular fracture
abd soft, nd
stable pelvis
ext: b/l ___ unstable tib/fib fractures
lue fracture
lle puncture wounds with soft tissue protruding
multiple abrasions and areas of echymosis

 
Pertinent Results:
___ 01:26AM BLOOD WBC-2.5* RBC-2.46* Hgb-7.3* Hct-23.2*# 
MCV-94 MCH-29.7 MCHC-31.4 RDW-14.7 Plt Ct-78*
___ 12:15AM BLOOD Hct-31.5*# Plt ___
___ 11:30PM BLOOD WBC-3.0* RBC-2.08* Hgb-6.1* Hct-19.8* 
MCV-95 MCH-29.1 MCHC-30.6* RDW-13.8 Plt ___
___ 10:25PM BLOOD WBC-4.3# RBC-1.89*# Hgb-5.7*# Hct-19.0*# 
MCV-100* MCH-30.3 MCHC-30.2* RDW-14.0 Plt Ct-81*
___ 09:20PM BLOOD WBC-9.6 RBC-3.30* Hgb-10.1* Hct-33.4* 
MCV-101*# MCH-30.7 MCHC-30.3* RDW-13.6 Plt Ct-58*
___ 08:40PM BLOOD WBC-9.0 RBC-2.96* Hgb-8.8* Hct-27.2* 
MCV-92 MCH-29.6 MCHC-32.2 RDW-14.0 Plt ___
___ 11:30PM BLOOD Neuts-72.5* ___ Monos-2.6 Eos-2.1 
Baso-0.1
___ 10:25PM BLOOD Neuts-53 Bands-5 ___ Monos-0 Eos-0 
Baso-0 ___ Metas-1* Myelos-1* NRBC-1*
___ 10:25PM BLOOD Hypochr-3+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Schisto-1+ 
Tear Dr-1+ Ellipto-1+
___ 01:26AM BLOOD Plt Ct-78*
___ 01:26AM BLOOD ___ PTT-47.9* ___
___ 12:15AM BLOOD Plt ___
___ 11:30PM BLOOD Plt ___
___ 11:30PM BLOOD ___ PTT-49.7* ___
___ 10:25PM BLOOD Plt Smr-LOW Plt Ct-81*
___ 10:25PM BLOOD ___ PTT-69.7* ___
___ 09:20PM BLOOD ___ PTT-105.1* ___
___ 08:40PM BLOOD ___ PTT-52.1* ___
___ 11:30PM BLOOD Fibrino-87*
___ 10:25PM BLOOD Fibrino-61*
___ 08:40PM BLOOD Fibrino-53*
___ 01:26AM BLOOD Glucose-390* UreaN-11 Creat-0.9 Na-146* 
K-3.5 Cl-116* HCO3-14* AnGap-20
___ 12:15AM BLOOD Glucose-396* UreaN-11 Creat-0.9 Na-146* 
K-4.2 Cl-112* HCO3-12* AnGap-26*
___ 11:30PM BLOOD Glucose-391* UreaN-11 Creat-0.8 Na-146* 
K-3.5 Cl-112* HCO3-16* AnGap-22*
___ 10:25PM BLOOD Glucose-391* UreaN-12 Creat-0.9 Na-142 
K-3.3 Cl-112* HCO3-12* AnGap-21*
___ 08:40PM BLOOD UreaN-13 Creat-1.1
___ 11:30PM BLOOD AST-48* CK(CPK)-461* AlkPhos-29* 
Amylase-44 TotBili-0.4
___ 10:25PM BLOOD ALT-46* AST-58* CK(CPK)-674* AlkPhos-23* 
Amylase-45 TotBili-0.4
___ 11:30PM BLOOD CK-MB-21* MB Indx-4.6 cTropnT-<0.01
___ 10:25PM BLOOD CK-MB-33* MB Indx-4.9 cTropnT-<0.01
___ 11:30PM BLOOD Lipase-44
___ 01:26AM BLOOD Calcium-11.1* Phos-3.2 Mg-1.6
___ 12:15AM BLOOD Calcium-12.5* Phos-4.7* Mg-1.6
___ 08:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:36PM BLOOD Type-ART pO2-471* pCO2-32* pH-7.26* 
calTCO2-15* Base XS--11
___ 01:36AM BLOOD Lactate-7.7* K-3.5
___ 01:36AM BLOOD Hgb-7.1* calcHCT-21
___ 11:36PM BLOOD O2 Sat-98
___ 01:36AM BLOOD freeCa-1.13
___ 11:36PM BLOOD freeCa-1.15
 
Brief Hospital Course:
Ms. ___ was intubated upon arrival and was found to be 
hypotensive, minimally responsive to recussitation with blood 
and crystalloid. She had a positive FAST exam and was taken 
emergently to the operating room. She was found to have a 
splenic laceration and left kidney laceration, and underwent 
splenectomy, and left nephrectomy. The remainder of the abdomen 
was explored and no other sources of bleeding were identified. 
Please see dictated operative report for further details. The 
patient was transferred to the ICU for further recussitation. 
Upon neurological exam in the ICU it was found that her left 
pupil was now also fixed and dilated along with the right which 
had been since initial evaluation in the ED. She had no gag 
reflex or corneal reflex, and no longer had purposeful movement, 
but was at times overbreathing the ventillator. She continued to 
be hypotensive on pressors and with blood products being 
transfused. Her abdomen was opened in the ICU for a bedside 
ex-lap. Diffuse oozing was seen, likely due to coagulopathy, but 
no large sources of bleeding that could be corrected. Her 
abdomen was left open. Initially upon re-entering her abdomen 
her pressures improved, but then again slowly continued to trend 
down. Given the cumulative blood loss from her abdomen, head, 
b/l lower extremeties, it was difficult to keep her adequately 
perfused even with crystalloid, blood products, and pressors. 
Massive transfusion protocol was initiated upon arrival and she 
received >38 Units of blood product. She remained hypothermic 
throughout most of the recussitation even with warmed product, 
fluids, and bear hugger.
A discussion was had with her husband, sister, neice, and family 
friends in the ICU meeting room, and given the extent of her 
injuries, and likely unrecoverable neurological status, the 
decision was made to change her code status to comfort measures 
only, and the patient expired shortly thereafter.  
 
Medications on Admission:
none
 
Discharge Medications:
none - expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
hypovolemic hemorrhagic shock and traumatic brain injury - 
expired

 
Discharge Condition:
none - patient expired

 
Discharge Instructions:
none - patient expired
 
Followup Instructions:
___